US07863444B2
5-(4-Amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (31 mg, 0.096 mmol) was dissolved in dichloromethane (1 mL). Pyridine (1 mL) was added followed by 2-(2-thienyl)ethanoyl chloride (14 uL, 0.113 mmol). After stirring overnight, another 14 uL of 2-(2-thienyl)ethanoyl chloride was added and the reaction mixture was stirred overnight. The solvent was removed and the residue was purified by preparative thin layer chromatography eluting with dichlormethane/methanol (95:5) to give N1-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]-2-(2-thienyl)acetamide (14 mg, 0.031 mmol). 1H NMR (DMSO-d6) δ 1.89 (m, 6H), 2.25 (m, 2H), 3.82 (s, 3H), 3.99 (s, 2H), 5.19 (bs, 2H), 5.21 (m, 1H), 6.93 (s, 1H), 6.94 (s, 1H), 7.06 (m, 3H), 7.31 (m, 1H), 8.02 (s, 1H), 8.32 (s, 1H), 8.42 (d, J=8.22 Hz, 1H). LC/MS MH+=448.

reactant | 5-(4-Amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.096 mmol, 31 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
reactant | Pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-thienyl)ethanoyl chloride | 0.113 mmol, 14 uL | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | 2-(2-thienyl)ethanoyl chloride | 14 uL | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N1-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]-2-(2-thienyl)acetamide | 0.031 mmol, 14 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(CC=2SC=CC2)=O)OC)C2CCCC2 | C24H25N5O2S
